US08404859B2
Preparation of 3-Cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Cyano-thiophene-2,5-dicarboxylic acid 2-methyl ester (240 mg, 1.14 mmol) in anhydrous DMF (6 mL) was added triethylamine (0.64 mL, 4.56 mmol), HBTU (0.52 g, 1.36 mmol), HOBT (0.180 mg, 1.36 mmol), and C-(1H-Indazol-4-yl)-methylamine dihydrochloride (300 mg, 1.36 mmol). The mixture was stirred at room temperature 15 h, then quenched by pouring into EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 30-100% EtOAc in hexane to afford the desired product (0.2627 g, 67% yield).

reactant | 3-Cyano-thiophene-2,5-dicarboxylic acid 2-methyl ester | 1.14 mmol, 240 mg | COC(=O)C=1SC(=CC1C#N)C(=O)O | C8H5NO4S
reactant | triethylamine | 4.56 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 1.36 mmol, 0.52 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 1.36 mmol, 0.180 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | C-(1H-Indazol-4-yl)-methylamine dihydrochloride | 1.36 mmol, 300 mg | Cl.Cl.N1N=CC2=C(C=CC=C12)CN
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-Cyano-5-[(1H-indazol-4-ylmethyl)-carbamoyl]-thiophene-2-carboxylic acid methyl ester | 0.2627 g, 67% yield | COC(=O)C=1SC(=CC1C#N)C(NCC1=C2C=NNC2=CC=C1)=O | C16H12N4O3S
